US05304563
Methyl 2-(4-hydroxy-3-nitrophenyl)-2-cyclopentyl-acetate
22.9 g (0.1 mol) of methyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate are dissolved in 50 ml of CH2Cl2 and added dropwise at 5° C. to a solution of 50 ml of conc. HNO3 /50 ml of H2O. The mixture is stirred for 15 min, then 100 ml of H2O are added and the organic phase is separated off. The aqueous phase is extracted three times with 50 ml of CH2Cl2, and the organic phases are washed 5 times with water, dried, concentrated to a small volume and filtered through silica gel. After concentration, the product is obtained in 71% yield (20 g). The product is further processed in crude form.

reactant | methyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate | 0.1 mol, 22.9 g | OC1=CC=C(C=C1)C(C(=O)OC)C1CCCC1 | C14H18O3
reactant | HNO3 | 50 ml | [N+](=O)(O)[O-] | HNO3
reactant | H2O | O | H2O
reactant | H2O | 100 ml | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-hydroxy-3-nitrophenyl)-2-cyclopentyl-acetate | 71% yield | OC1=C(C=C(C=C1)C(C(=O)OC)C1CCCC1)[N+](=O)[O-] | C14H17NO5
